US07435828B2
Preparation of 3-chloro-4-(2-acetoxy-ethoxy)-benzaldehyde
A mixture of 3-chloro-4-hydroxybenzaldehyde (10 g, 63.9 mmol), K2CO3 (26.5 g, 191.6 mmol) and 2-bromoethyl acetate (26.7 g, 159.7 mmol) in acetone (250 mL) is refluxed for 18 h before it is diluted with diethyl ether (200 mL) and washed with water (3×200 mL). The washings are extracted with diethyl ether (200 mL). The combined organic extracts are dried over MgSO4 and concentrated. The remaining residue is purified by column chromatography on silica gel eluting with heptane/EA 1:1 to afford the title compound (6.44 g) as colourless solid. 1H NMR (CDCl3): δ 9.85 (s, 1H9, 7.91 (d, J=1.8 Hz, 1H), 7.75 (dd, J=1.8, 8.2 Hz, 1H), 7.03 (d, J=8.8 Hz, 1H), 4.53-4.49 (m, 2H), 4.35-4.31 (m, 2H), 2.12 (s, 3H).

reactant | 3-chloro-4-hydroxybenzaldehyde | 63.9 mmol, 10 g | ClC=1C=C(C=O)C=CC1O | C7H5ClO2
reactant | K2CO3 | 191.6 mmol, 26.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromoethyl acetate | 159.7 mmol, 26.7 g | C(C)(=O)OCCBr | C4H7BrO2
solvent | acetone | 250 mL | CC(=O)C | C3H6O
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | 3-chloro-4-(2-acetoxy-ethoxy)-benzaldehyde | 6.44 g | ClC=1C=C(C=O)C=CC1OCCOC(C)=O | C11H11ClO4
